US05021436
A solution of 2-(pyrrolidin-1-yl)-1-chloroethane hydrochloride (2.8 g), 2-mercaptomethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (5.4 g) and sodium ethoxide (2 g) in ethanol (70 ml) is heated to the reflux temperature for 6 hours, then it is neutralized with AcOH and evaporated under reduced pressure. The residue, after the usual work-up, is purified by column-chromatography (SiO2 ; 210 g; eluent AcOH/MeOH 99/1) to give 2.8 g of 2-[2-(pyrrolidin-1-yl)ethylthio]methyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine, as an oil, that upon treatment with fumaric acid gives the corresponding salt, m.p. 192°-194° C.

reactant | 2-(pyrrolidin-1-yl)-1-chloroethane hydrochloride | 2.8 g | Cl.N1(CCCC1)CCCl
reactant | 2-mercaptomethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 5.4 g | SCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O6S
reactant | sodium ethoxide | 2 g | [O-]CC.[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-[2-(pyrrolidin-1-yl)ethylthio]methyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 2.8 g | N1(CCCC1)CCSCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C25H33N3O6S
